US09034900B2
Step 4: N-[4-(2,4-difluorophenoxy)-3-(4-fluoro-1-methyl-6-oxopyridin-3-yl)phenyl]ethanesulfonamide
Ethylsulfonyl chloride (177 mg, 1.4 mmol) was added dropwise to a stirred solution of 5-[5-amino-2-(2,4-difluorophenoxy)phenyl]-4-fluoro-1-methylpyridin-2-one (72 mg, 0.21 mmol) and pyridine (50 mL, 0.63 mmol) in dichloromethane (500 mL) at 0° C. under nitrogen. After the mixture was allowed to warm to rt and stir for 2 h, it was treated with 1N HCl (3 mL) and extracted with dichloromethane (3×10 mL); the combined organic extracts were washed with saturated bicarbonate solution (aq), dried over sodium sulfate, filtered and concentrated in vacuo. The resulting residue was purified by silica gel column chromatography (4 g ISCO, gradient 0-10% MeOH in dichloromethane) to afford the desired product, N-[4-(2,4-difluorophenoxy)-3-(4-fluoro-1-methyl-6-oxopyridin-3-yl)phenyl]ethanesulfonamide (66 mg, 72%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 1.18-1.26 (m, 3H), 3.07-3.16 (m, 2H), 3.45 (s, 3H), 6.22-6.33 (m, 1H), 6.82-6.93 (m, 1H), 7.01-7.16 (m, 2H), 7.18-7.28 (m, 2H), 7.38-7.49 (m, 1H), 7.95-8.05 (m, 1H), 9.77-9.87 (s, 1H). LCMS (M+H)+=439.

reactant | Ethylsulfonyl chloride | 1.4 mmol, 177 mg | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | 5-[5-amino-2-(2,4-difluorophenoxy)phenyl]-4-fluoro-1-methylpyridin-2-one | 0.21 mmol, 72 mg | NC=1C=CC(=C(C1)C=1C(=CC(N(C1)C)=O)F)OC1=C(C=C(C=C1)F)F | C18H13F3N2O2
reactant | pyridine | 0.63 mmol, 50 mL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1N, 3 mL | Cl | ClH
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | N-[4-(2,4-difluorophenoxy)-3-(4-fluoro-1-methyl-6-oxopyridin-3-yl)phenyl]ethanesulfonamide | 66 mg, 72% | FC1=C(OC2=C(C=C(C=C2)NS(=O)(=O)CC)C2=CN(C(C=C2F)=O)C)C=CC(=C1)F | C20H17F3N2O4S
